US04362728
A mixture of 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole (0.3 g.) and methyl isothiocyanate (0.18 g.) in methanol (6 ml.) was allowed to stand at room temperature for 3 hours. The residue obtained on evaporation of the solvent was subjected to preparative thin layer chromatography using chloroform/methanol/ammonia 90:10:0.5 v/v/v for development. The appropriate zone of the chromatogram was isolated and extracted with hot ethanol/chloroform 50:50 v/v (100 ml.). Evaporation of the solvent gave 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(3-methylthioureido)butyl]thiazole as a straw-coloured gum. The n.m.r. spectrum d6 dimethylsulphoxide using tetramethylsilane as internal standard included the following resonances (δ):- 2.75 (3H, doublet), 4.04 (2H, multiplet) and 6.34 (1H, singlet). On addition of D2O the multiplet at δ4.04 collapsed to a quartet.

reactant | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-(4-aminobutyl)thiazole | 0.3 g | FC(CN=C(NC=1SC=C(N1)CCCCN)N)(F)F | C10H16F3N5S
reactant | methyl isothiocyanate | 0.18 g | CN=C=S | C2H3NS
reactant | chloroform methanol ammonia | C(Cl)(Cl)Cl.CO.N
solvent | methanol | 6 ml | CO | CH4O
product | 2-[2-(2,2,2-trifluoroethyl)guanidino]-4-[4-(3-methylthioureido)butyl]thiazole | FC(CN=C(NC=1SC=C(N1)CCCCNC(=S)NC)N)(F)F | C12H19F3N6S2
